US04636512
A mixture of 17.5 g of N-BOC glycine, 100 ml of methylene chloride and 13.7 ml of N-methyl-morpholine was cooled to -20° C. and a solution of 13 ml of isobutyl chloroformate in 50 ml of methylene chloride was added. After stirring for 30 minutes at -20° C., a solution of 10.25 g of 2-amino-3-trifluoromethyl benzoic acid [prepared by the process of J. Med. Chem., Vol. 16 (2) 101,6 (1973)] in 5.49 ml of N-methyl-morpholine and 120 ml of methylene chloride was added thereto and after stirring for 20 hours at ambient temperature, the mixuture was poured into 500 ml of water and 150 ml of 2N hydrochloric acid. The mixture was extracted with methylene chloride and the organic phase was washed with water, dried and concentrated under reduced pressure to dryness. The residue was triturated with 50 ml of methanol and the mixture was frozen, separated, washed with methanol and dried under reduced pressure at 50° C. to obtain 11 g of 1,1-dimethylethyl [(4-oxo-8-(trifluoromethyl)-4H-3,1-benzoxazin-2-yl)-methyl]-carbamate melting at 176° C.

reactant | N-BOC glycine | 17.5 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | isobutyl chloroformate | 13 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-amino-3-trifluoromethyl benzoic acid | 10.25 g | NC1=C(C(=O)O)C=CC=C1C(F)(F)F | C8H6F3NO2
reactant | hydrochloric acid | 2N, 150 ml | Cl | ClH
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | N-methyl-morpholine | 5.49 ml | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
solvent | N-methyl-morpholine | 13.7 ml | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 500 ml | O | H2O
product | 1,1-dimethylethyl [(4-oxo-8-(trifluoromethyl)-4H-3,1-benzoxazin-2-yl)-methyl]-carbamate | 11 g | O=C1OC(=NC2=C1C=CC=C2C(F)(F)F)CNC(OC(C)(C)C)=O | C15H15F3N2O4
